US04727081
N-Phenyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-oxadiazole-2,5-diamine
1.4 ml (10 mmol) of triethylamine and 0.7 ml (5 mmol) of phenyl isocyanide dichloride are added to 1.5 g (5 mmol) of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide in 30 ml of THF and the mixture is stirred at room temperature until the reaction is quantitative. Solid triethylammonium chloride is filtered off, the filtrate is concentrated by evaporation under vacuum, and the solid residue is recrystallised from ethanol. The analytical values are summarized in Table II.

reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanide dichloride | 5 mmol, 0.7 ml | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide | 5 mmol, 1.5 g | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-Phenyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-oxadiazole-2,5-diamine | C1(=CC=CC=C1)NC=1OC(=NN1)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H29N5O2
